US07943795B2
E. Trifluoromethanesulfonic acid 6-(1-ethylpropenyl)naphthalen-2-yl ester
Cool a solution of 6-(1-ethyl-1-hydroxypropyl)naphthalen-2-ol (0.94 g, 4.08 mmol) and pyridine (1.3 mL, 16.3 mmol) in CH2CL2 (30 mL) in an ice bath and treat dropwise with trifluoromethanesulfonic anhydride (1.0 mL, 6.1 mmol). Remove the cooling bath, and stir the mixture at RT for 1 h. Quench the reaction mixture with ice water. Dilute the mixture with CH2CL2 (80 mL), wash twice with brine, dry over Na2SO4 and filter. Concentrate the filtrate and purify by silica gel radial chromatography (CH2CL2) to give the title compound as a yellow oil (0.93 g, 66%). MS (ES) m/e 361 (M+NH4).

reactant | 6-(1-ethyl-1-hydroxypropyl)naphthalen-2-ol | 4.08 mmol, 0.94 g | C(C)C(CC)(O)C=1C=C2C=CC(=CC2=CC1)O | C15H18O2
reactant | pyridine | 16.3 mmol, 1.3 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 6.1 mmol, 1.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoromethanesulfonic acid 6-(1-ethylpropenyl)naphthalen-2-yl ester | 0.93 g, 66% | C(C)C(=CC)C=1C=C2C=CC(=CC2=CC1)OS(=O)(=O)C(F)(F)F | C16H15F3O3S
